US04650872
A suspension of 5.0 g of 6-chloro-2-hydrazinopyridine-4-carbonitrile in 50 ml of pyridine was cooled to 0° C. in an ice bath and 3.1 g of acetyl chloride was added dropwise over a 10 minute period. The mixture became homogeneous after the addition and it was allowed to warm to ambient temperature. After 2 hours, the reaction mixture was poured into 180 ml of water and the precipitate which formed was separated by filtration and dried to give N-acetyl-N'-(6-chloro-4-cyano-2-pyridyl)hydrazine which was purified by recrystallization from ethanol.

reactant | 6-chloro-2-hydrazinopyridine-4-carbonitrile | 5.0 g | ClC1=CC(=CC(=N1)NN)C#N | C6H5ClN4
reactant | acetyl chloride | 3.1 g | C(C)(=O)Cl | C2H3ClO
reactant | water | 180 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-N'-(6-chloro-4-cyano-2-pyridyl)hydrazine | C(C)(=O)NNC1=NC(=CC(=C1)C#N)Cl | C8H7ClN4O
